US06696473B2
A. Preparation of 5-Acetamido-2-mercaptobenzothiazole
A mixture of Na2S.9H2O (65 g, 0.28 mol), sulfur (25 g, 0.78 mol) and water (150 mL) were heated with stirring at 90° C. for 10 min, and then poured into a flask charged with the above 4′-chloro-3′-nitroacetanilide (21.5 g, 0.10 mol). The resulting mixture was heated at 80° C. for 10 min, and then CS2 (12 mL, 0.2 mol) was added dropwise while maintaining a gentle reflux. The resulting mixture was heated at 90° C. for 7 h. The solids were collected by filtration, washed with water and dilute HCl solution. The solids were taken up in water, and the solution was made alkaline with solid NaOH. The solution was filtered, and the filtrate was acidified with conc HCl. The precipitates were collected by filtration, washed with water, and dried under high vacuum. The crude product was suspended in cold water (200 mL) and solid Na2CO3 was added to obtain pH 13. Dimethyl sulfate was added to the above milky solution, and the resulting mixture was stirred at ambient temperature for 3 h. The solids were collected by filtration, washed with water, and dried under high vacuum to yield the title compound (12.4 g, 55%).

reactant | sulfur | 0.78 mol, 25 g | [S] | S
reactant | 4′-chloro-3′-nitroacetanilide | 0.10 mol, 21.5 g | ClC1=C(C=C(NC(C)=O)C=C1)[N+](=O)[O-] | C8H7ClN2O3
reactant | CS2 | 0.2 mol, 12 mL | C(=S)=S | CS2
reactant | Dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 150 mL | O | H2O
product | 5-Acetamido-2-mercaptobenzothiazole | 12.4 g, 55% | C(C)(=O)NC=1C=CC2=C(N=C(S2)S)C1 | C9H8N2OS2
